US03962252
Reaction of phenoxazine, 2-piperidone, and phosphorus oxychloride according to the procedure of Example 1 provides 10-(3,4,5,6-TETRAHYDRO-2-PYRIDYL)PHENOXAZINE HYDROCHLORIDE, m.p. 218.5°-221°C. (corr.), in a 27% overall yield from absolute ethanol.

reactant | phenoxazine | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | 2-piperidone | N1C(CCCC1)=O | C5H9NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 10-(3,4,5,6-TETRAHYDRO-2-PYRIDYL)PHENOXAZINE HYDROCHLORIDE | Cl.N1=C(CCCC1)N1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C17H16N2O.ClH/c1-3-9-15-13(7-1)19(17-11-5-6-12-18-17)14-8-2-4-10-16(14)20-15;/h1-4,7-10H,5-6,11-12H2;1H
